US03985875
6.6 g (30 millimols) of 4-(4'-chlorophenoxy)phenol, 4.14 g (30 millimols) of potassium carbonate, 60 ml. of methyl ethyl ketone and 5.0 g (45 millimols) of methyl chloroacetate were treated in the same way as in Referential Example 2 to afford 8.1 g of oily methyl 4-(4'-chlorophenoxy)phenoxyacetate in a yield of 92%.

reactant | 4-(4'-chlorophenoxy)phenol | 30 millimols, 6.6 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | potassium carbonate | 30 millimols, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 45 millimols, 5.0 g | ClCC(=O)OC | C3H5ClO2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | methyl 4-(4'-chlorophenoxy)phenoxyacetate | 8.1 g, yield of 92% | ClC1=CC=C(OC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C15H13ClO4
